US05854232
D. N-Adamantan-1-yl-2-bromo-acetamide
To an anhydrous toluene solution (25 ml) at 0° C. containing 1-adamantanamine (4.445 g, 29.39 mmol) and triethylamine (4.92 ml, 35.27 mmol) under a nitrogen atmosphere was added dropwise with strirring a solution of bromoacetyl bromide (2.56 ml, 29.39 mmol in 10 ml of toluene). The solution was warmed to ambient temperature and stirred for 2.5 hours. The triethylamine (TEA) salts were filtered and washed with toluene. The filtrate was extracted with 1 M HCl and brine, dried (Na2SO4) and concentrated in vacuo to yield 5.74 g (71%) of the title compound as a light brown solid which was crystallized from ether/hexane.

reactant | 1-adamantanamine | 29.39 mmol, 4.445 g | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
reactant | triethylamine | 35.27 mmol, 4.92 ml | C(C)N(CC)CC | C6H15N
reactant | bromoacetyl bromide | 29.39 mmol, 2.56 ml | BrCC(=O)Br | C2H2Br2O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | N-Adamantan-1-yl-2-bromo-acetamide | 5.74 g, 71% | C12(CC3CC(CC(C1)C3)C2)NC(CBr)=O | C12H18BrNO
